US08633207B2
To 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-(trifluoromethoxy)quinazolin-4-ol (250 mg, 0.66 mmol) was added phosphoryl tribromide (2.3 g) and toluene (2 mL) followed by DIEA (0.232 mL, 1.33 mmol). The mixture was heated at 105° C. for 0.5 h, then allowed to cool to rt. The mixture partitioned between EtOAc and saturated aq sodium bicarbonate and the organic layer was dried over sodium sulfate and concentrated under reduced pressure. To the residue was added a solution of 5-methyl-1H-pyrazol-3-amine (280 mg, 2.8 mmol) in DMF (5 mL) and the mixture was stirred at rt for 2 h. The crude mixture was purified by preparative HPLC (Varian diphenyl reverse phase column, eluting with a gradient of solvent B=0.05% HOAc/ACN and solvent A=0.05% HOAc/H2O) to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-N-(5-methyl-1H-pyrazol-3-yl)-8-(trifluoromethoxy)quinazolin-4-amine (100 mg, 33%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.19 (s, 3H) 6.02 (s, 1H) 7.71 (t, J=8.10 Hz, 1H) 7.86-8.10 (m, 3H) 8.60-8.79 (m, 2H) 10.95 (s, 1H) 12.25 (br s, 1H); LC-MS (ESI) m/z 455 (M+H)+.

reactant | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-(trifluoromethoxy)quinazolin-4-ol | 0.66 mmol, 250 mg | FC(C1=NC2=C(C=CC=C2C(=N1)O)OC(F)(F)F)(C1=NC=C(C=C1)F)F | C15H7F6N3O2
reactant | phosphoryl tribromide | 2.3 g | P(=O)(Br)(Br)Br | Br3OP
reactant | DIEA | 1.33 mmol, 0.232 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-methyl-1H-pyrazol-3-amine | 2.8 mmol, 280 mg | CC1=CC(=NN1)N | C4H7N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-N-(5-methyl-1H-pyrazol-3-yl)-8-(trifluoromethoxy)quinazolin-4-amine | 100 mg, 33% | FC(C1=NC2=C(C=CC=C2C(=N1)NC1=NNC(=C1)C)OC(F)(F)F)(C1=NC=C(C=C1)F)F | C19H12F6N6O
